US04960792
1. 3-(1-Carboxycyclopentyl)-2-aminopropanoic acid t-butyl ester
3-(1-Carboxycyclopentyl)-2-(dibenzylaminomethyl)propanoic acid t-butyl ester hydrochloride (20.0 g; 41 mmol) in ethanol (160 ml) and triethylamine (2.0 ml) was hydrogenated over palladium (from 20% Pd(OH)2 /C; 20 g) at 60 p.s.i. (4.1 bar). After eighteen hours the mixture was filtered through arbicel, the solvent evaporated and the residue dried azeotropically with toluene. The required primary amino acid triethylamine salt, containing one mole equivalent of triethylamine hydrochloride was thus obtained as a white solid (16.21 g).

reactant | 3-(1-Carboxycyclopentyl)-2-(dibenzylaminomethyl)propanoic acid t-butyl ester hydrochloride | 41 mmol, 20.0 g | Cl.C(C)(C)(C)OC(C(CC1(CCCC1)C(=O)O)CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 160 ml | C(C)O | C2H6O
catalyst | palladium | 20 g | [Pd] | Pd
product | 3-(1-Carboxycyclopentyl)-2-aminopropanoic acid t-butyl ester | 16.21 g | C(C)(C)(C)OC(C(CC1(CCCC1)C(=O)O)N)=O | C13H23NO4
